US05298520
Following the procedure of Example 11, Step 6, 0.666 g (2.89 mmol) 3-methyl-5-(1-methyltetrazol-5-yl)benzo[b]thiophene was reacted with 0.515 g (2.89 mmol) of N-bromosuccinimide and 38.1 mg of benzoyl peroxide in 30 ml of carbon-tetrachloride. The reaction mixture was evaporated in vacuo and chromatographed on flash silica, eluting with 0-3% methanol/dichloromethane to give 0.532 g of crude 3-bromo-5-(1-methyltetrazol-5-yl)benzo[b]thiophene.

reactant | 3-methyl-5-(1-methyltetrazol-5-yl)benzo[b]thiophene | 2.89 mmol, 0.666 g | CC=1C2=C(SC1)C=CC(=C2)C2=NN=NN2C | C11H10N4S
reactant | N-bromosuccinimide | 2.89 mmol, 0.515 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon-tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 38.1 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-bromo-5-(1-methyltetrazol-5-yl)benzo[b]thiophene | 0.532 g | BrC=1C2=C(SC1)C=CC(=C2)C2=NN=NN2C | C10H7BrN4S
